US04548951
A solution of 100 g piperonal in 900 ml acetone was stirred at room temperature with 15 ml of 10% aqueous sodium hydroxide and 30 ml of water. After 3 hours 5 ml of acetic acid was added and the reaction mixture was evaporated. The residue was recrystallized from methanol and dried in vacuo to yield 60 g of piperonalacetone, m.p. 104°-105° C. (EtoAc).

reactant | piperonal | 100 g | C1=CC2=C(C=C1C=O)OCO2 | C8H6O3
reactant | sodium hydroxide | 15 ml | [OH-].[Na+]
reactant | water | 30 ml | O | H2O
reactant | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
reactant | acetone | 900 ml | CC(=O)C | C3H6O
product | piperonalacetone | 60 g | CC(=O)/C=C/C1=CC2=C(C=C1)OCO2 | C11H10O3
